US07846960B2
4-Iodo-3-trifluoromethyl-benzoic Acid
To a 0° C. suspension of 4-Amino-3-trifluoromethyl benzoic acid (1.8 g, 8.8 mmol) in conc. HCl (30.0 mL) is added a solution of sodium nitrite (0.76 g, 11.0 mmol) in water (15 mL) dropwise. The mixture is stirred at 0-10° C. for 30 min. A solution of potassium iodide (14.6 g, 88 mmol) in water (25 mL) is added dropwise. The mixture is stirred at room temperature for 1.0 h. The reaction mixture is extracted with EtOAc (80 mL), washed with brine (80 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure to a residue. The residue is purified by flash chromatography to afford the title compound as solid (2.4 g, 86%). LC-ES/MS: 339.3 (M+23), 315.0 (M−1).

reactant | 4-Amino-3-trifluoromethyl benzoic acid | 8.8 mmol, 1.8 g | NC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H6F3NO2
reactant | sodium nitrite | 11.0 mmol, 0.76 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 88 mmol, 14.6 g | [I-].[K+]
solvent | HCl | 30.0 mL | Cl | ClH
solvent | water | 15 mL | O | H2O
solvent | water | 25 mL | O | H2O
product | 4-Iodo-3-trifluoromethyl-benzoic Acid | 2.4 g, 86% | IC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H4F3IO2
